### PR TITLE
[Merged by Bors] - feat: sums over residue classes

### PR DESCRIPTION
**Pull request by MichaelStollBayreuth**
This adds a file `Analysis.SumOverResidueClass`, whose main result is
```lean
/-- A decreasing sequence of real numbers is summable on a residue class
if and only if it is summable. -/
lemma summable_indicator_mod_iff {m : ℕ} [NeZero m] {f : ℕ → ℝ} (hf : Antitone f) (k : ZMod m) :
    Summable ({n : ℕ | (n : ZMod m) = k}.indicator f) ↔ Summable f
```
We then use this to show that the harmonic series still diverges when restricted to a residue class.

This is needed for the proof that the abscissa of absolute convergence of a Dirichlet L-series is 1.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib.lean [hunk 1]
```diff
@@ -978,6 +978,7 @@ import Mathlib.Analysis.SpecificLimits.IsROrC
 import Mathlib.Analysis.SpecificLimits.Normed
 import Mathlib.Analysis.Subadditive
 import Mathlib.Analysis.SumIntegralComparisons
+import Mathlib.Analysis.SumOverResidueClass
 import Mathlib.Analysis.VonNeumannAlgebra.Basic
 import Mathlib.CategoryTheory.Abelian.Basic
```
[the remark this answers is not in the document]
Comment (MichaelStollBayreuth) [reply Mathlib.lean:983]: The suggestion is definitely removing the wrong line. Is this a bug?

[the remark this answers is not in the document]
Comment (alexjbest) [reply Mathlib.lean:983]: Yes, it is unfortunately a known one, but the root cause eludes us still

File: Mathlib/Analysis/SumOverResidueClass.lean [hunk 2]
```diff
@@ -0,0 +1,74 @@
...
+    have hg : Function.Injective g := fun m n hmn ↦ by simpa [g, hm.ne] using hmn
+    have hg' : ∀ n ∉ range g, {n : ℕ | (n : ZMod m) = k ∧ k ≤ n}.indicator f n = 0 := by
+      intro n hn
+      contrapose! hn
+      exact (Nat.range_mul_add m k).symm ▸ mem_of_indicator_ne_zero hn
+    convert (Function.Injective.summable_iff hg hg').symm using 3
+    simp only [Function.comp_apply, mem_setOf_eq, Nat.cast_add, Nat.cast_mul, CharP.cast_eq_zero,
+      zero_mul, zero_add, le_add_iff_nonneg_left, zero_le, and_self, indicator_of_mem, g]
+
+variable {f : ℕ → ℝ} (hf : Antitone f) (hf₀ : ∀ n, 0 ≤ f n)
```
Comment (sgouezel) [inline Mathlib/Analysis/SumOverResidueClass.lean:51]: Do you really need `hf0`? If it is not true, then nothing is ever convergent, so all your lemmas should still be true, right? By the way, could you put the Prop assumptions inside the lemmas instead of as global variables? Otherwise, it makes the file hard to read as the assumptions are not obvious.

File: Mathlib/Analysis/SumOverResidueClass.lean [hunk 3]
```diff
@@ -0,0 +1,74 @@
...
+
+
+open BigOperators in
+lemma Finset.sum_indicator_mod {R : Type*} [AddCommMonoid R] (m : ℕ) [NeZero m] (f : ℕ → R) :
+    f = ∑ a : ZMod m, {n : ℕ | (n : ZMod m) = a}.indicator f := by
+  ext n
+  simp only [Finset.sum_apply, Set.indicator_apply, Set.mem_setOf_eq, Finset.sum_ite_eq,
+    Finset.mem_univ, ↓reduceIte]
+
+variable (m : ℕ) [hm: NeZero m]
```
Comment (sgouezel) [inline Mathlib/Analysis/SumOverResidueClass.lean:29]:
```suggestion
variable (m : ℕ) [hm : NeZero m]
```

File: Mathlib/Analysis/SumOverResidueClass.lean (hunk 2 above)
Comment (MichaelStollBayreuth) [reply Mathlib/Analysis/SumOverResidueClass.lean:51]: I'll move the Prop assumption inside the lemmas. You are right about `hf₀`; I'll work out how to remove it.

File: Mathlib/Analysis/SumOverResidueClass.lean (hunk 3 above)
Comment (MichaelStollBayreuth) [reply Mathlib/Analysis/SumOverResidueClass.lean]: Done.

File: Mathlib/Analysis/SumOverResidueClass.lean [hunk 4]
```diff
@@ -0,0 +1,93 @@
...
+/-!
+# Sums over residue classes
+
+We consider infinite sums over functions `f` on `ℕ`, restricted to a residue class mod `m`.
+
+The main result is `summable_indicator_mod_iff`, which states that when `f : ℕ → ℝ` is
+decreasing and takes nonnegative values, then the sum over `f` restricted to any residue class
+mod `m ≠ 0` converges if and only if the sum over all of `ℕ` converges.
+
+(Note that we want to use `Summable.of_nonneg_of_le`, which insists on `ℝ` as the target.)
```
Comment (sgouezel) [inline Mathlib/Analysis/SumOverResidueClass.lean:17]: I'd remove this comment, as I don't see what other target would really make sense (nonnegative reals, maybe, but then it's easy to deduce from the real result).

File: Mathlib/Analysis/SumOverResidueClass.lean [hunk 5]
```diff
@@ -0,0 +1,93 @@
...
+-/
+import Mathlib.Analysis.NormedSpace.FiniteDimension
+
+/-!
+# Sums over residue classes
+
+We consider infinite sums over functions `f` on `ℕ`, restricted to a residue class mod `m`.
+
+The main result is `summable_indicator_mod_iff`, which states that when `f : ℕ → ℝ` is
+decreasing and takes nonnegative values, then the sum over `f` restricted to any residue class
```
Comment (sgouezel) [inline Mathlib/Analysis/SumOverResidueClass.lean:14]:
```suggestion
decreasing, then the sum over `f` restricted to any residue class
```

**Comment by sgouezel** [comment]
bors d+
Thanks!

File: Mathlib/Analysis/SumOverResidueClass.lean (hunk 4 above)
Comment (MichaelStollBayreuth) [reply Mathlib/Analysis/SumOverResidueClass.lean:17]: OK. (I was thinking that maybe there is a more general version possible, but maybe the reals are essentially the only relevant possibility here).

File: Mathlib/Analysis/SumOverResidueClass.lean (hunk 5 above)
Comment (MichaelStollBayreuth) [reply Mathlib/Analysis/SumOverResidueClass.lean]: Done.

**Comment by MichaelStollBayreuth** [comment]
@sgouezel I have now split the lemma `not_summable_indicator_mod_of_antitone_of_neg` into two, with `not_summable_of_antitone_of_neg` extracting the result for the case without restricting to a residue class.
Can you have another look before I hit "merge"?

**Comment by MichaelStollBayreuth** [comment]
@sgouezel I'll merge this in the afternoon (CET), unless there is further feedback by then.
